US08703810B2
2-(Bromomethyl)-1-fluoro-4-methoxybenzene
To a solution of 1-fluoro-4-methoxy-2-methylbenzene (2.0 g, 14.29 mmol) in CCl4, NBS (2.55 g, 14.29 mmol) and PhCO3H (80 mg) were added. The reaction mixture was heated at reflux for 2 h, cooled to room temperature, and the solid was filtered off. The filtrate was concentrated, and the residue was purified by silica gel column chromatography (eluting with PE/EA=20/1) to give the target compound (3.0 g) as an oil. 1H NMR (CDCl3): δ 6.97-6.83 (m, 3H), 4.48 (s, 2H), 3.78 (s, 3H).

reactant | 1-fluoro-4-methoxy-2-methylbenzene | 14.29 mmol, 2.0 g | FC1=C(C=C(C=C1)OC)C | C8H9FO
reactant | NBS | 14.29 mmol, 2.55 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(Bromomethyl)-1-fluoro-4-methoxybenzene | 3.0 g | BrCC1=C(C=CC(=C1)OC)F | C8H8BrFO
